US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(methyl-propyl-amino)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, N-methyl-N-propylamine, (4-chloro-phenyl)-boronic acid and rac-1-amino-2-cyclopropyl-propan-2-ol as starting materials. MS (ISP): 402.5 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | N-methyl-N-propylamine | CNCCC | C4H11N
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | rac-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(methyl-propyl-amino)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)N(CCC)C | C22H28ClN3O2
